US09315489B2
Methyl 2-(pyrimidin-5-yl)-4-((4-(trifluoromethoxy)phenyl)carbamoyl)benzoate
SOCl2 (1.218 mL, 16.68 mmol) and DMF (208.24 μL) were added dropwise to a suspension of 3-iodo-4-(methoxycarbonyl)benzoic acid (1.0212 g, 3.34 mmol) in toluene (8.37 mL) and the RM was stirred at 80° C. for 1 h. The solvent was evaporated off under reduced pressure and the residue was dissolved in THF (6.27 mL). DIPEA (1.166 mL, 6.67 mmol) was added and the mixture was cooled down to 0° C., treated dropwise with a solution of 4-(trifluoromethoxy)aniline (0.496 mL, 3.67 mmol) in THF was added and the RM was stirred at RT for 2.5 h. The RM was treated with 1 M HCl and extracted with EtOAc. The combined extracts were washed with HCl 1 M, NaHCO3 10%, brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give a residue, of which (500 mg, 1.075 mmol), together with pyrimidin-5-ylboronic acid (266 mg, 2.150 mmol), Pd(PPh3)2Cl2 (75 mg, 0.107 mmol), Na2CO3 (342 mg, 3.22 mmol), water (1.30 mL), EtOH (656 μL) and DME (4.58 mL), were added to a vial, which was sealed, evacuated/purged with argon and subjected to MW irradiation for 10 min at 120° C. RM was diluted with DME (3 mL) and stirred overnight with Si-Thiol (1.3 mmol/g, 413 mg, 0.537 mmol). The mixture was centrifuged, filtered and the filtrate was evaporated off under reduced pressure to give the crude product which was purified by flash chromatography (Silica gel, cyclohexane/EtOAc, 2% to 50% EtOAc) to afford the title compound as a yellow solid. UPLC-MS (Condition 2) tR=1.08 min, m/z=418.2 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ ppm 3.72 (s, 3H) 7.40 (d, J=8.21 Hz, 2H) 7.88 (m, J=9.00 Hz, 2H) 8.08 (s, 1H) 8.16 (s, 2H) 8.88 (s, 2H) 9.24 (s, 1H) 10.62 (s, 1H).

reactant | SOCl2 | 16.68 mmol, 1.218 mL | O=S(Cl)Cl | Cl2OS
reactant | 3-iodo-4-(methoxycarbonyl)benzoic acid | 3.34 mmol, 1.0212 g | IC=1C=C(C(=O)O)C=CC1C(=O)OC | C9H7IO4
reactant | DIPEA | 6.67 mmol, 1.166 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(trifluoromethoxy)aniline | 3.67 mmol, 0.496 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | HCl | 1 M | Cl | ClH
reactant | pyrimidin-5-ylboronic acid | 2.150 mmol, 266 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 3.22 mmol, 342 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 8.37 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 0.107 mmol, 75 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DME | 4.58 mL | COCCOC | C4H10O2
solvent | EtOH | 656 μL | CCO | C2H6O
solvent | water | 1.30 mL | O | H2O
solvent | DMF | 208.24 μL | CN(C)C=O | C3H7NO
product | Methyl 2-(pyrimidin-5-yl)-4-((4-(trifluoromethoxy)phenyl)carbamoyl)benzoate | N1=CN=CC(=C1)C1=C(C(=O)OC)C=CC(=C1)C(NC1=CC=C(C=C1)OC(F)(F)F)=O | C20H14F3N3O4
